US07812043B2
1-(2-Fluoro-benzyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide
R5X=1-Bromomethyl-2-fluoro-benzene, NH2A=2-aminothiazole; Indole starting material=methyl indole 3-carboxylate

reactant | 1-Bromomethyl-2-fluoro-benzene | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | Indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl indole 3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
product | 1-(2-Fluoro-benzyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CC1=C(C=CC=C1)F | C19H14FN3OS
